US07531482B2
Preparation of 1-(2-Chlorothiazol-5-yl)ethanone
A solution of 2-chlorothiazole (2.5 g, 21 mmol) in THF (10 mL) was added dropwise to a chilled (−75° C.) 2.5 M hexanes solution of n-BuLi (9.2 mL, 23 mmol) in THF (70 mL). After the addition was complete the reaction mixture was stirred for 1 hr. Then a solution of N-methoxy-N-methylacetamide (2.4 g, 23 mmol) in THF (5 mL) was added. The reaction was allowed to stir overnight while warming to 25° C. The reaction was diluted with H2O and thrice extracted with ethyl ether. The organic portions were combined, washed with brine and then dried (Na2SO4). Filtration and removal of solvent gave a residue that was purified by flash chromatography on silica eluting with 5 percent Et2O in pentane, affording product as a white solid, 2.5 g, 15.5 mmol, 73 percent yield.

reactant | 2-chlorothiazole | 21 mmol, 2.5 g | ClC=1SC=CN1 | C3H2ClNS
reactant | n-BuLi | 23 mmol, 9.2 mL | [Li]CCCC
reactant | N-methoxy-N-methylacetamide | 23 mmol, 2.4 g | CON(C(C)=O)C | C4H9NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 1-(2-Chlorothiazol-5-yl)ethanone | 73 percent yield | ClC=1SC(=CN1)C(C)=O | C5H4ClNOS
